US04719297
Sodium 2,4,6-trimethylbenzoylphenylphosphinate (Compound 4)
60.5 parts by weight of methyl 2,4,6-trimethylbenzoylphenylphosphinate (as described in U.S. Pat. No. 4,265,723) and 33 parts by weight of sodium iodide were dissolved in 560 parts by volume of methyl ethyl ketone, and the solution was stirred for 2.5 hours at 55° C. The resulting precipitate was filtered off, washed with methyl ethyl ketone and dried, the desired product being obtained.

reactant | methyl 2,4,6-trimethylbenzoylphenylphosphinate | CC1=C(C(=O)P(OC)(=O)C2=CC=CC=C2)C(=CC(=C1)C)C | C17H19O3P
reactant | sodium iodide | [I-].[Na+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | Sodium 2,4,6-trimethylbenzoylphenylphosphinate | CC1=C(C(=O)P([O-])(=O)C2=CC=CC=C2)C(=CC(=C1)C)C.[Na+] | InChI=1S/C16H17O3P.Na/c1-11-9-12(2)15(13(3)10-11)16(17)20(18,19)14-7-5-4-6-8-14;/h4-10H,1-3H3,(H,18,19);/q;+1/p-1
